US05599814
b. 4,6-Dimethyl-1H-indole-2,3-dione
To a stirred warm (60°-70° C.) solution of concentrated H2SO4 (60 mL) and water (6 mL) was added in small portions N-(3,5-dimethylphenyl)-2-(hydroxyimino)acetamide (15.0 g, 78 mM) so that the temperature of the reaction mixture did not exceed 70° C. After the addition was completed, the reaction mixture was heated at 80° C. for 10 min and then cooled and poured onto ice. The resulting mixture was filtered and the collected solids were washed with water and dried to provide the title compound (9.93 g, 72.6%); MS(CI): 176.

reactant | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
reactant | N-(3,5-dimethylphenyl)-2-(hydroxyimino)acetamide | 78 mM, 15.0 g | CC=1C=C(C=C(C1)C)NC(C=NO)=O | C10H12N2O2
solvent | water | 6 mL | O | H2O
product | 4,6-Dimethyl-1H-indole-2,3-dione | 9.93 g, 72.6% | CC1=C2C(C(NC2=CC(=C1)C)=O)=O | C10H9NO2
